US08426420B2
i) (S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-methyl-pentanoic acid tert-butyl ester
To a solution of 250 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 4 ml DMF were added 124 mg HOAt, 174 mg EDC, 0.37 ml DIPEA and 136 mg leucine tert-butyl ester hydrochloride. After stirring for 12 h it was concentrated and the residue dissolved in dichloromethane. It was extracted with aqueous LiCl (4% w/w), aqueous NaHCO3 and 0.1 M HCl. The organic layer was dried over MgSO4 and concentrated to furnish the crude coupling product as colorless oil.

reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 250 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | HOAt | 124 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 0.37 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | leucine tert-butyl ester hydrochloride | 136 mg | Cl.C(C)(C)(C)OC([C@@H](N)CC(C)C)=O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EDC | 174 mg
product | (S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-methyl-pentanoic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C31H43N5O6
